### PR TITLE
Update StructureTheorem.lean

### PR DESCRIPTION
**Pull request by ShouxinZhang**

### CODE REVIEW

File: Iwasawalib/RingTheory/PseudoNull/StructureTheorem.lean [hunk 1]
```diff
@@ -376,6 +376,112 @@ instance (priority := 100) IsKrullDomain.heightOneLocalizationIsPID
 
 -/
 
+lemma key {A : Type*} [CommRing A] [IsNoetherianRing A]
```
Comment (acmepjz) [inline Iwasawalib/RingTheory/PseudoNull/StructureTheorem.lean:379]: Can you make this intermediate results `private`?

File: Iwasawalib/RingTheory/PseudoNull/StructureTheorem.lean [hunk 2]
```diff
@@ -376,6 +376,112 @@ instance (priority := 100) IsKrullDomain.heightOneLocalizationIsPID
...
+      exact ⟨s_a, hs_a.1, hs_a.2⟩
+    use s_a, by
+      simp_rw [S, Submonoid.mem_iInf]
+      intro p hp
+      simp at hnotmem
+      simp [Ideal.primeCompl, hnotmem p hp]
+    rw [Module.mem_annihilator] at hmem
+    simp [hmem k]
+
+lemma LinearMap.subsingleton_ker_convert
```
Comment (acmepjz) [inline Iwasawalib/RingTheory/PseudoNull/StructureTheorem.lean:452]: Can you make this intermediate results `private`?

File: Iwasawalib/RingTheory/PseudoNull/StructureTheorem.lean [hunk 3]
```diff
@@ -376,6 +376,112 @@ instance (priority := 100) IsKrullDomain.heightOneLocalizationIsPID
...
+  have h_exact : Function.Exact (LocalizedModule.map S (ker f).subtype) (LocalizedModule.map S f) :=
+    LocalizedModule.map_exact S _ _ (f.exact_subtype_ker_map)
+  rw [LinearMap.exact_iff] at h_exact
+  rw [h_exact]
+  have : LocalizedModule S ↥(ker f) ≃ₗ[Localization S] range (LocalizedModule.map S (ker f).subtype) := by
+    apply LinearEquiv.ofInjective
+    exact LocalizedModule.map_injective S _ (Submodule.subtype_injective _)
+  rw [Equiv.subsingleton_congr this.toEquiv]
+
+lemma LinearMap.subsingleton_coker_convert
```
Comment (acmepjz) [inline Iwasawalib/RingTheory/PseudoNull/StructureTheorem.lean:467]: Can you make this intermediate results `private`?

File: Iwasawalib/RingTheory/PseudoNull/StructureTheorem.lean [hunk 4]
```diff
@@ -376,6 +376,112 @@ instance (priority := 100) IsKrullDomain.heightOneLocalizationIsPID
...
+    specialize hS m
+    obtain ⟨r, ⟨hrmem, hreq⟩⟩ := hS
+    use r, by
+      apply Set.mem_of_subset_of_mem ?_ hrmem
+      simp only [Submonoid.coe_iInf, Set.biInter_subset_of_mem hp]
+  . intro h
+    simp_rw [LocalizedModule.subsingleton_iff] at h ⊢
+    intro k
+    obtain ⟨s_a, hmem, hnotmem⟩ : ∃ s_a ∈ Module.annihilator A X, s_a ∉ ⋃ p ∈ sigma, p.1 := by
+      simp
```
Comment (acmepjz) [inline Iwasawalib/RingTheory/PseudoNull/StructureTheorem.lean:402]: Can you replace these non-terminal `simp`s by `simp only [...]`? There are a lot of them,

File: Iwasawalib/RingTheory/PseudoNull/StructureTheorem.lean [hunk 5]
```diff
@@ -414,6 +597,7 @@ theorem Module.IsTorsion.isPseudoIsomorphic_iff_nonempty_linearEquiv_localizedMo
     M ∼ₚᵢₛ[A] N ↔ ∀ p : PrimeSpectrum A, p.1.primeHeight = 1 →
       Nonempty ((LocalizedModule p.1.primeCompl M) ≃ₗ[Localization p.1.primeCompl]
         (LocalizedModule p.1.primeCompl N)) := by
+
```
Comment (acmepjz) [inline Iwasawalib/RingTheory/PseudoNull/StructureTheorem.lean:600]: Can you remove this accidently added newline?

**Review by acmepjz — COMMENTED** [review]
Thank you very much! There are some minor problems.

File: Iwasawalib/RingTheory/PseudoNull/StructureTheorem.lean (hunk 1 above)
Comment (ShouxinZhang) [reply Iwasawalib/RingTheory/PseudoNull/StructureTheorem.lean:379]: done it

File: Iwasawalib/RingTheory/PseudoNull/StructureTheorem.lean (hunk 4 above)
Comment (ShouxinZhang) [reply Iwasawalib/RingTheory/PseudoNull/StructureTheorem.lean:402]: done it

File: Iwasawalib/RingTheory/PseudoNull/StructureTheorem.lean (hunk 5 above)
Comment (ShouxinZhang) [reply Iwasawalib/RingTheory/PseudoNull/StructureTheorem.lean:600]: done it

File: Iwasawalib/RingTheory/PseudoNull/StructureTheorem.lean [hunk 6]
```diff
@@ -376,6 +376,113 @@ instance (priority := 100) IsKrullDomain.heightOneLocalizationIsPID
...
+          simp only [h, Set.mem_singleton_iff, Set.iUnion_iUnion_eq_left, SetLike.coe_subset_coe,
+            forall_eq] at h_sub h_not_le
+          contradiction
+        rw [show sigma = t by simp [t]] at h_sub h_not_le
+        have hp : ∀ i ∈ t, (i.asIdeal).IsPrime := fun i _ => i.isPrime
+        rw [Ideal.subset_union_prime a b (fun i hi _ _ => hp i hi)] at h_sub
+        obtain ⟨i, hi, hle⟩ := h_sub
+        exact h_not_le i hi hle
+      obtain ⟨s_a, hs_a⟩ := Set.not_subset.mp h_not_subset
+      simp at hs_a
```
Comment (acmepjz) [inline Iwasawalib/RingTheory/PseudoNull/StructureTheorem.lean:443]: There is still one remaining

**Review by acmepjz — COMMENTED** [review]
Thanks!

File: Iwasawalib/RingTheory/PseudoNull/StructureTheorem.lean (hunk 6 above)
Comment (ShouxinZhang) [reply Iwasawalib/RingTheory/PseudoNull/StructureTheorem.lean]: Sorry, my problem. I will write a python code to automate non-terminal `simp` checking to check these problems later.

**Comment by acmepjz** [comment]
Thanks!
